US06150303
4-Chloro-3-(4'-chloro-2',5'-difluorophenyl)-5-(methylcarbonyloxy)-5-trifluoromethylisoxazoline
One drop of concentrated sulfuric acid was added to 3.2 g of 4-chloro-3-(4'-chloro-2',5'-difluorophenyl)-5-hydroxy-5-trifluoromethylisoxazoline in 45 ml of acetic anhydride. The mixture was subsequently briefly heated to 160° C. After cooling, the reaction mixture was then concentrated under reduced pressure. The oily crude product was purified by silica gel chromatography (eluent: methylene chloride). Yield: 2.5 g; oil.

reactant | 4-chloro-3-(4'-chloro-2',5'-difluorophenyl)-5-hydroxy-5-trifluoromethylisoxazoline | 3.2 g | ClC1C(=NOC1(C(F)(F)F)O)C1=C(C=C(C(=C1)F)Cl)F | C10H4Cl2F5NO2
reactant | acetic anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | One drop | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-3-(4'-chloro-2',5'-difluorophenyl)-5-(methylcarbonyloxy)-5-trifluoromethylisoxazoline | ClC1C(=NOC1(C(F)(F)F)OC(=O)C)C1=C(C=C(C(=C1)F)Cl)F | C12H6Cl2F5NO3
